US07511067B2
c) 1-(4-benzyloxy-3-hydroxymethyl-phenyl)-2-(1,1-dimethyl-3-[1,2,4]triazol-4-yl-propylamino)-ethanol
5 g of calcium chloride are dissolved in 50 mL ethanol. Then 10 g of methyl 2-benzyloxy-5-[2-(1,1-dimethyl-3-[1,2,4]triazol-4-yl-propylamino)-acetyl]-benzoate in 100 mL tetrahydrofuran are added and the mixture is cooled to 5° C. It is combined batchwise with 3.5 g of sodium borohydride and stirred overnight while heating to ambient temperature. 15 mL acetone are added to the reaction mixture and it is stirred for 30 minutes. Glacial acetic acid is added, the solvents are distilled off, 100 mL water are added to the residue and it is adjusted to pH 2 with conc. hydrochloric acid. It is washed once with ethyl acetate, then made basic with ammonia, diluted with 100 mL water and extracted twice with in each case 200 mL ethyl acetate. After the organic phase has been dried it is evaporated down and the residue is dissolved in acetonitrile. The mixture is acidified with glacial acetic acid and seed crystals are added. The product precipitated is suction filtered and recrystallised from acetonitrile. Yield: 6.5 g (43%, acetate); m.p.=139-141° C.

reactant | calcium chloride | 5 g | [Cl-].[Ca+2].[Cl-]
reactant | methyl 2-benzyloxy-5-[2-(1,1-dimethyl-3-[1,2,4]triazol-4-yl-propylamino)-acetyl]-benzoate | 10 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)C(CNC(CCN1C=NN=C1)(C)C)=O | C24H28N4O4
reactant | sodium borohydride | 3.5 g | [BH4-].[Na+]
reactant | acetone | 15 mL | CC(=O)C | C3H6O
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(4-benzyloxy-3-hydroxymethyl-phenyl)-2-(1,1-dimethyl-3-[1,2,4]triazol-4-yl-propylamino)-ethanol | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CNC(CCN1C=NN=C1)(C)C)O)CO | C23H30N4O3
